US04952600
(S)-4-Hydroxy-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone
A mixture of 1.0 g of (S)-4-(acetyloxy)-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone, 0.75 g of sodium carbonate and 40 ml of methanol was stirred overnight, then filtered and concentrated. The residue was concentrated from dichloromethane and purified by chromatography on deactivated alumina, giving 0.83 g of the desired product as a yellow oil [α]D26° =-8° (c, 1.018, dichloromethane).

reactant | (S)-4-(acetyloxy)-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone | 1.0 g | C(C)(=O)O[C@H]1CC(N(C1)CC#CCN1CCCCC1)=O | C15H22N2O3
reactant | sodium carbonate | 0.75 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | (S)-4-Hydroxy-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone | 0.83 g | O[C@H]1CC(N(C1)CC#CCN1CCCCC1)=O | C13H20N2O2
